US08026366B2
A mixture of 7-hydroxy-2-propylthiazolo[4,5-c]quinoline (0.88 g, 3.6 mmol) and cesium carbonate (2.35 g, 7.20 mmol) in DMF (50 mL) was stirred for 30 min, then 4-fluorobenzylbromide (0.50 mL, 4.0 mmol) was added. After 2 h, the mixture was concentrated in vacuo to remove the DMF. The resulting solid was partitioned between dichloromethane (100 mL) and water (100 mL). The organic layer was washed with water (50 mL) and brine (50 mL), dried over MgSO4, filtered, and concentrated to a light yellow solid. The solid was recrystallized from heptane and pure 7-(4-fluorobenzyloxy)-2-propylthiazolo[4,5-c]quinoline was isolated as a tan solid (0.86 g, 68%).

reactant | 7-hydroxy-2-propylthiazolo[4,5-c]quinoline | 3.6 mmol, 0.88 g | OC=1C=CC=2C3=C(C=NC2C1)N=C(S3)CCC | C13H12N2OS
reactant | cesium carbonate | 7.20 mmol, 2.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluorobenzylbromide | 4.0 mmol, 0.50 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 7-(4-fluorobenzyloxy)-2-propylthiazolo[4,5-c]quinoline | FC1=CC=C(COC=2C=CC=3C4=C(C=NC3C2)N=C(S4)CCC)C=C1 | C20H17FN2OS
